US06518293B2
3-Isopropylimidazolidine-2,4-dione
To a solution of 3.6 g of sodium hydroxide in 75 ml of water was added 7.5 g of glycine. The solution was cooled to 5° C. and treated with 9.8 ml of isopropylisocyanate. After 5 h the reaction mixture was neutralised with 50 ml concentrated hydrochloric acid added dropwise to the slurry. This mixture was refluxed for 2 h then cooled to rt. The product was extracted with ethyl acetate to give 10.9 g of a colourless oil. 1H NMR (400 MHz, deuteriochloroform): δ=1.45 (6H, d, J=7 Hz), 3.92 (2H, s), 4.35 (1H, septet, J=7 Hz), 6.39 (1H, br s).

reactant | sodium hydroxide | 3.6 g | [OH-].[Na+]
reactant | glycine | 7.5 g | NCC(=O)O | C2H5NO2
reactant | isopropylisocyanate | 9.8 ml | C(C)(C)N=C=O | C4H7NO
reactant | hydrochloric acid | 50 ml | Cl | ClH
solvent | water | 75 ml | O | H2O
product | 3-Isopropylimidazolidine-2,4-dione | 10.9 g | C(C)(C)N1C(NCC1=O)=O | C6H10N2O2
